US07919488B2
N-(1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-N′-isopropylurea
To a solution of 1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-amine (635 mg, 1.61 mmol) in THF (10 mL) at room temperature was added isopropyl isocyanate (164 mg, 1.93 mmol) and the solution stirred 50° C. for 16 h. The volatiles were removed under vacuum and the residue was triturated with water to afford a white solid, 627 mg, 82%.1H NMR (400 MHz, DMSO-d6) δ ppm 1.02 (d, J=6.55 Hz, 6 H), 1.08-1.21 (m, J=7.18, 7.18 Hz, 1 H), 1.23-1.39 (m, 1 H), 1.65-1.90 (m, 2 H), 2.81 (t, J=10.95 Hz, 1 H), 3.05-3.25 (m, J=11.33, 11.33 Hz, 1 H), 3.50-3.72 (m, 2 H), 3.80 (d, J=13.60 Hz, 1 H), 3.95 (s, 2 H), 4.07 (d, J=13.35 Hz, 1 H), 5.03-5.33 (m, 2 H), 5.58 (d, J=7.81 Hz, 1 H), 5.75 (d, J=7.81 Hz, 1 H), 6.56 (s, 1 H), 7.02-7.26 (m, 2 H), 7.22-7.40 (m, 2 H), 7.64-7.79 (m, 2 H), 8.56 (d, J=6.04 Hz, 2 H); m/z (APCI+) for C26H31FN6O2 479.6 (M+H)+.

reactant | 1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-amine | 1.61 mmol, 635 mg | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)N)C2=CC=NC=C2)C=C1 | C22H24FN5O
reactant | isopropyl isocyanate | 1.93 mmol, 164 mg | C(C)(C)N=C=O | C4H7NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-(1-{[5-(4-fluorobenzyl)-3-pyridin-4-yl-1H-pyrazol-1-yl]acetyl}piperidin-4-yl)-N′-isopropylurea | FC1=CC=C(CC2=CC(=NN2CC(=O)N2CCC(CC2)NC(=O)NC(C)C)C2=CC=NC=C2)C=C1 | C26H31FN6O2
